US08633186B2
2-nitro-6-(2-(2-oxopyrrolidin-1-yl)ethoxy)benzonitrile
Prepared as in Example 166d from 1-(2-hydroxyethyl)pyrrolidin-2-one and 2,6-dinitrobenzonitrile in 74% yield. MS 276 (MH+).

reactant | 1-(2-hydroxyethyl)pyrrolidin-2-one | OCCN1C(CCC1)=O | C6H11NO2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-nitro-6-(2-(2-oxopyrrolidin-1-yl)ethoxy)benzonitrile | 74% yield | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCCN1C(CCC1)=O | C13H13N3O4
